US09108966B2
EDC (0.916 g, 4.78 mmol) was added to a solution of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (1.2 g, 4.34 mmol) and HOBt (0.732 g, 4.78 mmol) in DMF (12 mL) at rt. The mixture was stirred at rt for 0.5 h, then ethyl 2-(hydroxyamino)-2-iminoacetate (0.689 g, 5.21 mmol) was added and the mixture was stirred for another 0.5 h at rt. The reaction mixture was then heated to 100° C. under microwave for 80 minutes. The solvent was removed under vacuum and the residue was purified by silica gel column chromatography (0 to 5% MeOH/DCM) to afford ethyl 5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,2,4-oxadiazole-3-carboxylate (0.85 g, 53%). ESI-MS (EI+, m/z): 373.4.

reactant | EDC | 4.78 mmol, 0.916 g
reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 4.34 mmol, 1.2 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | HOBt | 4.78 mmol, 0.732 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethyl 2-(hydroxyamino)-2-iminoacetate | 5.21 mmol, 0.689 g | ONC(C(=O)OCC)=N | C4H8N2O3
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | ethyl 5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,2,4-oxadiazole-3-carboxylate | 0.85 g, 53% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NC(=NO2)C(=O)OCC | C18H20N4O5
